US04927819
Step B 2-Bromo-5-hydroxymethyl-dibenzo[a,d]cycloheptene
To a solution of 2-bromo-5-methylene-dibenzo[a,d]cycloheptene (5.7 g) in dry THF (20 ml), under an inert atmosphere, was added 9-borabicyclo[3,3,1]nonane (4.4 ml of a 0.5 molar solution in THF) at ambient temperature, and the reaction mixture was then refluxed for 3 h. After cooling in an ice bath the reaction was quenched by the slow addition of 2N sodium hydroxide solution (100 ml) and 30% hydrogen peroxide (20 ml). After stirring vigorously at 0° C. for 45 minutes the reaction mixture was allowed to warm to room temperature over a 2 h period then extracted with diethyl ether (3×200 ml). The combined organic layers were washed with brine (1×100 ml), dried (Na2SO4), filtered and concentrated in vacuo to leave a residue which was purified by chromatography on flash silica with 30% ethyl acetate in hexane as eluent to give the title compound (6.0 g) as a colourless oil. δ (360 MHz, CDCl3) 3.81 (2H, d, J=7.9 Hz, CH--CH2OH), 4.17 (1H, t, J=7.9 Hz, CH--CH2OH), 6.75 (1H, d, J=12 Hz, CHA =CHB), 6.89 (1H, d, J=12 Hz, CHA =CHB), 7.15-7.48 (7H, m, ArH).

reactant | 2-bromo-5-methylene-dibenzo[a,d]cycloheptene | 5.7 g | BrC1=CC2=C(C(C3=C(C=C2)C=CC=C3)=C)C=C1 | C16H11Br
reactant | 9-borabicyclo[3,3,1]nonane | C12CCCC(CCC1)B2 | C8H15B
reactant | THF | 20 ml | C1CCOC1 | C4H8O
product | 2-Bromo-5-hydroxymethyl-dibenzo[a,d]cycloheptene | 6.0 g | BrC1=CC2=C(C(C3=C(C=C2)C=CC=C3)CO)C=C1 | C16H13BrO
